US07314885B2
4-[1-(2,3-Difluoro-phenyl)-1H-tetrazol-5-yl]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester:
To a solution of 4-[N-(2,3-difluoro-phenyl)-N′-amino-carbamimidoyl]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester (250 mg, 0.67 mmol) in 2N HCl (10 mL) was added a solution of NaNO2 (56 mg, 0.81 mmol) in water (2 mL) slowly at 0° C. The reaction mixture was stirred at this temperature for 5 minutes and then neutralized by addition of 6N NaOH. The resulting white precipitate was collected by filtration and washed with water. After drying on the vacuum pump for 6 hours, the crude product was obtained (250 mg, 97%) as white solid. 1H NMR (500 MHz, DMSO-d6) δ7.94 (q, 1H), 7.78 (t, 1H), 7.68 (s, 1H), 7.60 (q, 1H), 7.15 (s, 1H), 3.94 (s, 3H), 3.82 (s, 3H) ppm. MS (ES+): m/e=384.1 (M+H); LC/Method A/3.63 min.

reactant | 4-[N-(2,3-difluoro-phenyl)-N′-amino-carbamimidoyl]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester | 0.67 mmol, 250 mg | COC(=O)C=1N(C=C(C1)C(NC1=C(C(=CC=C1)F)F)=NN)S(=O)(=O)C | C14H14F2N4O4S
reactant | NaNO2 | 0.81 mmol, 56 mg | N(=O)[O-].[Na+]
reactant | NaOH | 6N | [OH-].[Na+]
solvent | HCl | 2N, 10 mL | Cl | ClH
solvent | water | 2 mL | O | H2O
product | 4-[1-(2,3-Difluoro-phenyl)-1H-tetrazol-5-yl]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)C1=NN=NN1C1=C(C(=CC=C1)F)F)S(=O)(=O)C | C14H11F2N5O4S
